US08809525B2
5-(3,5-difluorophenyl)-1,2,4-triazin-3-amine (18 g, 74%) was prepared from 3-(methylsulfonyl)-5-(3,5-difluorophenyl)-1,2,4-triazine (31.0 g, 115.0 mmol) and ammonia gas according to the general procedure of Preparation 2.

reactant | 3-(methylsulfonyl)-5-(3,5-difluorophenyl)-1,2,4-triazine | 115.0 mmol, 31.0 g | CS(=O)(=O)C=1N=NC=C(N1)C1=CC(=CC(=C1)F)F | C10H7F2N3O2S
reactant | ammonia | N | H3N
product | 5-(3,5-difluorophenyl)-1,2,4-triazin-3-amine | 18 g, 74% | FC=1C=C(C=C(C1)F)C=1N=C(N=NC1)N | C9H6F2N4
